US08071778B2
tert-butyl 4-((1-(6-bromo-4-(trifluoromethyl)pyridin-2-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate.
This compound was prepared according to the experimental condition of Intermediate 2 from 2-bromo-6-(1-bromoethyl)-4-(trifluoromethyl)pyridine and tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate to afford the titled compound. 1HNMR (CDCl3 400 MHz) δ7.41 (m, 3H), 7.36 (m, 4H), 5.07 (q, 1H), 4.34 (m, 2H), 3.80 (m, 2H), 3.05 (m, 2H), 2.25 (m, 2H), 1.96 (m, 2H), 1.55 (s, 9H), 1.43 (d, 3H). Mass Spec.: 544.44 (MH)+.

reactant | 2-bromo-6-(1-bromoethyl)-4-(trifluoromethyl)pyridine | BrC1=NC(=CC(=C1)C(F)(F)F)C(C)Br | C8H6Br2F3N
reactant | tert-butyl 4-(hydroxymethyl)-4-phenylpiperidine-1-carboxylate | OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C17H25NO3
product | tert-butyl 4-((1-(6-bromo-4-(trifluoromethyl)pyridin-2-yl)ethoxy)methyl)-4-phenylpiperidine-1-carboxylate | BrC1=CC(=CC(=N1)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)C(F)(F)F | C25H30BrF3N2O3
